datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CO[C:63]1=[C:62]([N:61]2[C:10]([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]3=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C1CC[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1>>C1=CC=C([S:32]([C-:21]([CH:20]([CH2:10][C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N:72]([C:61]([S-:10])=[S:62])C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCCC2)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].N#C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CC[O:33][C:31]([CH:20]([CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](C#N)[CH:64]=[CH:63]2)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"COC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:72]2)C=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)S1.COC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:72]2)C=C1 10,11=10,20;12=11,12"
C=CC[NH2:10].CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C=CC[NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)CC(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]1 10=20
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]=[C:11]=[N-:12])=[O:62])C=C1>>C1=CC=C([CH:20]([CH:10]([C:11]#[N:12])[P:61](C2=CC=CC=C2)(C2=CC=CC=C2)=[O:62])[CH:21]=[C:22]=[N-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH:11]1[H:10]>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH+:11]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1(OC)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH+:11][CH2:10][C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)C=C1 10,11=10,20"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11](C2=CC=C(Br)C=C2)=[O:12])[S+:61](C)C)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC[C:20](C)=[O:21].CN(C)C1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1>>CCC[C:20](C)([C:10]1(CC2=CC=C(N(C)C)C=C2)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]1=[O:62])[O-:21] 10,11=10,20;12=11,12;20,21=21"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>C1C[O:33][C:22]([O-:23])=[C:21]1[CH2:20][N:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1 10=20;20,21=21,22;22,23=23"
